US04459414
4-Phenylthio-3,5,6-trichlorophthalic acid N-n-butylimide.
2 g (5.86 millimols) of tetrachlorophthalic acid N-n-butylimide are initially introduced, together with 2.43 g (17.59 millimols) of potassium carbonate, into 15 ml of tetrahydrofuran at 0° C. A solution of 680 mg (6.16 millimols) of thiophenol in 10 ml of tetrahydrofuran is added dropwise over a period of 2 hours. The mixture is stirred at 0° C. for 3 hours and gradually warmed to 25° C. over a period of 6 hours, and then acidified with 2N HCl solution and extracted with tetrahydrofuran/toluene. After drying over sodium sulfate, the organic phase is evaporated and the residue is recrystallised several times. This yields 0.17 g (7% of theory) of 4-phenylthio-3,5,6-trichlorophthalic acid N-n-butylimide; melting point 159°-63° C.

reactant | tetrachlorophthalic acid N-n-butylimide | 5.86 millimols, 2 g | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C12H11Cl4NO3
reactant | potassium carbonate | 17.59 millimols, 2.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 6.16 millimols, 680 mg | C1(=CC=CC=C1)S | C6H6S
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-Phenylthio-3,5,6-trichlorophthalic acid N-n-butylimide | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)SC1=CC=CC=C1)Cl)O | C18H16Cl3NO3S
